US07723330B2
Step C: Preparation of 1-(4-methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine:
A stirred mixture of 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (22.00 g, 86.18 mmol) cesium carbonate (28.08 g, 86.18 mmol), 1,2-difluoro-4-nitrobenzene (13.71 g, 86.18 mmol) and DMA (100 mL) was heated to 100° C. for 1 hour. After cooling to room temperature, the mixture was partitioned between DCM (500 mL) and water (500 mL). The phases were separated, and the organic phase washed with water (3×200 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The resulting residue was triturated with diethyl ether (100 mL) and hexanes (200 mL) co-solvent, and the resulting beige powder was filtered. A second crop was obtained after cooling in a −10° C. freezer overnight. The two crops were combined (28 g, 82%). 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=5.5 Hz, 1H), 8.16 (m, 2H), 7.86 (s, 1H), 7.39 (m, 1H), 7.35 (d, J=8.6 Hz, 2H), 6.84 (d, J=8.2 Hz, 2H), 6.48 (d, J=5.5 Hz, 1H), 5.65 (s, 2H), 3.76 (s, 3H). 19F NMR (376 MHz, CDCl3) δ −124.2 (m).

reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 86.18 mmol, 22.00 g | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | 1,2-difluoro-4-nitrobenzene | 86.18 mmol, 13.71 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
product | 1-(4-methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C=C3)[N+](=O)[O-])F)C=C1 | C20H15FN4O4
